US08258297B2
1-Methyl-1,2,4-triazolo[4,3-f]phenanthridinium tetrafluoroborate
A solution of 1,2,4-triazolo[4,3-f]phenanthridine (A. G. Mikhailovskii, V. S. Shklyaev, Chem. Heterocycl. Comp. 1992, 445) (5.9 g, 27 mmol) in dichloromethane (200 ml) and methanol (20 ml) is admixed under argon at 2° C. with trimethyloxonium tetrafluoroborate (4.3 g, 29 mmol) and stirred at 2° C. for 1 h and at room temperature for 16 h. The resulting precipitate is filtered off and washed with dichloromethane, methanol and petroleum ether. Yield: 5.9 g (69%).

reactant | 1,2,4-triazolo[4,3-f]phenanthridine | N=1N=CN2C=3C=CC=CC3C=3C=CC=CC3C21 | C14H9N3
reactant | methanol | 20 ml | CO | CH4O
reactant | trimethyloxonium tetrafluoroborate | 29 mmol, 4.3 g | F[B-](F)(F)F.C[O+](C)C
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1-Methyl-1,2,4-triazolo[4,3-f]phenanthridinium tetrafluoroborate | F[B-](F)(F)F.C[N+]=1N=CN2C=3C=CC=CC3C=3C=CC=CC3C21 | InChI=1S/C15H12N3.BF4/c1-17-15-13-8-3-2-6-11(13)12-7-4-5-9-14(12)18(15)10-16-17;2-1(3,4)5/h2-10H,1H3;/q+1;-1
